US07754757B2
In a similar manner to Example 8, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (32.3 mg) and 4-ethoxycarbonylbenzyl bromide (28.1 mg) were used to obtain (2S,4S)-1-[[N-[4-(4-ethoxycarbonylbenzyl)oxycarbonyl bicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (34.7 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 32.3 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-ethoxycarbonylbenzyl bromide | 28.1 mg | C(C)OC(=O)C1=CC=C(CBr)C=C1 | C10H11BrO2
product | (2S,4S)-1-[[N-[4-(4-ethoxycarbonylbenzyl)oxycarbonyl bicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 34.7 mg | C(C)OC(=O)C1=CC=C(COC(=O)C23CCC(CC2)(CC3)NCC(=O)N3[C@@H](C[C@@H](C3)F)C#N)C=C1 | C26H32FN3O5
